US05646173
An ozone stream (2.5 g ozone/hour) was conducted for 50 minutes while stirring through a solution, cooled to -70°, of 6.2 g of (RS)-2'-(2-buten-1-yl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one in 80 ml of anhydrous dichloromethane and 20 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 2.52 ml of dimethyl sulfide, the mixture was stirred at room temperature for 17 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 100 ml of dichoromethane and, after the addition of 15 ml of water and 15 ml of trifluoroacetic acid, stirred at room temperature for 2.5 hours. The mixture was subsequently poured into 150 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 50 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 100 ml of dichloro-methane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 5.74 g (97%) of (RS)-2'-(2-oxoethyl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one were obtained as a light yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 2.5 g | O=[O+][O-] | O3
reactant | (RS)-2'-(2-buten-1-yl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one | 6.2 g | C(C=CC)C1C2(C3=CC=C(C=C3C1=O)OC)CCCC2 | C18H22O2
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (RS)-2'-(2-oxoethyl)-5'-methoxy-2',3'-dihydro-spiro[cyclopentane-1,1'-[1H]indene]-3'-one | 5.74 g, 97% | O=CCC1C2(C3=CC=C(C=C3C1=O)OC)CCCC2 | C16H18O3
